US04162246
2,2-Bis{4-[2-hydroxy-3-(7,9-diethyl-6,7,9-trimethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane (Compound No. 104)
4.1 g of 7,9-diethyl-6,7,9-trimethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 2.5 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane and 0.05 g of potassium hydroxide were reacted in a mixture of 150 ml of N,N-dimethylformamide and 20 ml of methanol, following substantially the same procedure as described in Example 1. The desired Compound No. 104 was obtained in the form of a white powder, showing an Rf value of 0.66 on thin-layer chromatography on silica gel using a 8:1:1:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine as developing solvent.

reactant | 7,9-diethyl-6,7,9-trimethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 4.1 g | C(C)C1(C(C2(C(NC(N2)=O)=O)CC(N1)(C)CC)C)C | C14H25N3O2
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 2.5 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
reactant | potassium hydroxide | 0.05 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | methanol | 20 ml | CO | CH4O
product | 2,2-Bis{4-[2-hydroxy-3-(7,9-diethyl-6,7,9-trimethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)C(C(NC(C2)(CC)C)(CC)C)C)=O)O)CN2C(NC1(C2=O)C(C(NC(C1)(C)CC)(C)CC)C)=O | C49H74N6O8
